US05891889
Step C: 2(R,S)-{1-(Triphenylmethyl)-1H-imidazol-4-yl}-2-(4-cyanobenzyl)-acetyl-4-(2-methylbenzyl) isonipecotic acid methyl ester.
To a mixture of 4-(2-methylbenzyl)-isonipecotic acid methyl ester hydrochloride (72 mg, 0.25 mmol), and 2-(1-(triphenylmethyl)-1H-imidazol-4-yl}-2-(4-cyanobenzyl)-acetic acid(123 mg, 0.25 mmol), HOOBT (42 mg, 0.25 mmol) and triethylamine (0.088 ml, 0.636 mmol) in DMF (3 ml), was added EDC (54 mg, 0.25 mmol) and the reaction stirred at room temperature for 18 hrs. The reaction was diluted with EtOAc and washed with saturated NaHCO3 solution, the organic extracts were dried (Na2SO4), and the solvent evaporated in vacuo. The residue was purified by chromatography(SiO2, gradient elution, 1-5% MeOH in CH2Cl2) to afford the product.

reactant | 4-(2-methylbenzyl)-isonipecotic acid methyl ester hydrochloride | 0.25 mmol, 72 mg | Cl.COC(C1(CCNCC1)CC1=C(C=CC=C1)C)=O
reactant | 2-(1-(triphenylmethyl)-1H-imidazol-4-yl}-2-(4-cyanobenzyl)-acetic acid | 0.25 mmol, 123 mg | C1(=CC=CC=C1)C(N1C=NC(=C1)C(C(=O)O)CC1=CC=C(C=C1)C#N)(C1=CC=CC=C1)C1=CC=CC=C1 | C32H25N3O2
reactant | HOOBT | 0.25 mmol, 42 mg | C1=CC=C2C(=C1)C(=O)N(N=N2)O | C7H5N3O2
reactant | triethylamine | 0.636 mmol, 0.088 ml | C(C)N(CC)CC | C6H15N
reactant | EDC | 0.25 mmol, 54 mg
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2(R,S)-{1-(Triphenylmethyl)-1H-imidazol-4-yl}-2-(4-cyanobenzyl)-acetyl-4-(2-methylbenzyl) isonipecotic acid methyl ester | COC(C1(CCN(CC1)C(C(CC1=CC=C(C=C1)C#N)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)CC1=C(C=CC=C1)C)=O | C47H44N4O3
